US03961056
a. 2-Methyl-1,3-diphenyl-2-thiopseudourea hydriodide
A mixture of 22.8 gm. (0.1 mole) of thiocarbanilide and 17 gm. (0.12 mole) of methyl iodide in 400 ml. of ethanol is heated at reflux for 6 hours. The solvent is evaporated and residue is crystallized from ethyl acetate; 29 gm. (78%), m.p. 155°-156°.

reactant | thiocarbanilide | 0.1 mole | C1=CC=C(C=C1)NC(=S)NC2=CC=CC=C2 | C13H12N2S
reactant | methyl iodide | 0.12 mole | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-1,3-diphenyl-2-thiopseudourea hydriodide | I.CSC(NC1=CC=CC=C1)=NC1=CC=CC=C1 | InChI=1S/C14H14N2S.HI/c1-17-14(15-12-8-4-2-5-9-12)16-13-10-6-3-7-11-13;/h2-11H,1H3,(H,15,16);1H
